US04485106
To a suspension of 9.9 g of 1-chloro-4-hydrazino-5,6,7,8-tetrahydrophthalazine in 35 ml of aqueous 12% acetic acid was added a solution of 3.5 g of sodium nitrite in 30 ml of water. The mixture was kept at room temperature (about 22°-25° C.) for about 20 minutes. The solid present was then separated by filtration, air dried and recrystallized to give 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine melting at about 109°-110° C.

reactant | 1-chloro-4-hydrazino-5,6,7,8-tetrahydrophthalazine | 9.9 g | ClC1=NN=C(C=2CCCCC12)NN | C8H11ClN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
product | 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | ClC1=NN2C(C=3CCCCC13)=NN=N2 | C8H8ClN5
